US04380465
Preparation of 3-chloro-5-phenyl-4-isothiazolecarboxylic acid
A mixture of 2.20 g (10 mole) of 3-chloro-5-phenyl-4-isothiazolecarbonitrile and 10 ml of concentrated sulfuric acid was heated at 130°-140° for 3 hours and cooled with an ice bath. A solution of 1.0 g (14.5 mole) of sodium nitrite in 5 ml of water was added dropwise. The addition of sodium nitrite solution was adjusted so that the temperature did not exceed 30°. After complete addition of the sodium nitrite solution, the mixture was poured into 200 ml of water, and the mixture was heated at 50° for 1/2 hour and cooled. The aqueous solution was extracted with ether (24.50 ml). The ether extract was extracted with 50 ml of 10% sodium hydroxide (2 times). The extract was made acidic with 50 ml of concentrated HCl (a precipitate formed) and was extracted twice with 50 ml of ether. The ether solution was dried (MgSO4) and concentrated to give 1.8 g (75%) of tan needles, mp 166.5°-168°, which was recrystallized from hexane: ether to give 1.7 g (71%) of the desired product as yellow needles. mp 167°-169°.

reactant | 3-chloro-5-phenyl-4-isothiazolecarbonitrile | 10 mole, 2.20 g | ClC1=NSC(=C1C#N)C1=CC=CC=C1 | C10H5ClN2S
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 14.5 mole, 1.0 g | N(=O)[O-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | water | 200 ml | O | H2O
product | 3-chloro-5-phenyl-4-isothiazolecarboxylic acid | 1.8 g, 75% | ClC1=NSC(=C1C(=O)O)C1=CC=CC=C1 | C10H6ClNO2S
